US07304081B2
(1R)-1′-({1-[4-(Tetrahydro-2H-pyran-4-yloxy)phenyl]cyclopropyl}carbonyl)-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one
A mixture of (1R)-1′-{[1-(4-hydroxyphenyl)cyclopropyl]carbonyl}-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one (10 mg, 0.00003 mol), tetrahydro-4H-pyran-4-ol (6.5 μL, 0.000068 mol), diisopropyl azodicarboxylate (13 μL, 0.000068 mol), and triphenylphosphine (18 mg, 0.000068 mol) in tetrahydrofuran (200 μL, 0.002 mol) was stirred at room temperature overnight. It was purified with prep-HPLC to afford 2.3 mg of product. LCMS: m/z 435.1 (M+H)+.

reactant | (1R)-1′-{[1-(4-hydroxyphenyl)cyclopropyl]carbonyl}-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one | 0.00003 mol, 10 mg | OC1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C=1C=NC=CC12)=O | C20H18N2O4
reactant | tetrahydro-4H-pyran-4-ol | 0.000068 mol, 6.5 μL | O1CCC(CC1)O | C5H10O2
reactant | diisopropyl azodicarboxylate | 0.000068 mol, 13 μL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 0.000068 mol, 18 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrahydrofuran | 0.002 mol, 200 μL | O1CCCC1 | C4H8O
product | (1R)-1′-({1-[4-(Tetrahydro-2H-pyran-4-yloxy)phenyl]cyclopropyl}carbonyl)-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one | 2.3 mg | O1CCC(CC1)OC1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C=1C=NC=CC12)=O | C25H26N2O5
